US04150240
3.52 g (0.01 mole) of benzylpenicilloic acid, 3.70 g (0.03 mole) of m-anisidine and 20 ml of toluene were added to a solution of 3.60 g (0.06mole) of acetic acid in 30 ml of water. The mixture was heated under reflux, with stirring, for 4 hours in a nitrogen atmosphere. The reaction mixture was then treated as described in Example 9 to give D-penicillamine as colorless crystals: yield 1.07 g (71.8%), m.p. 201°-202° C.

reactant | benzylpenicilloic acid | 0.01 mole, 3.52 g | CC1(C(NC(S1)C(C(=O)O)NC(=O)CC2=CC=CC=C2)C(=O)O)C | C16H20N2O5S
reactant | m-anisidine | 0.03 mole, 3.70 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetic acid | 0.06mole, 3.60 g | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
product | D-penicillamine | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
